US04280831
3-Benzylsulfonyl-1-diethylcarbamoyl-1,2,4-triazole
To a solution of 3-benzylsulfonyl-1,2,4-triazole, 4.8 g (0.022 m) in 25 ml dry pyridine, 3.3 g (0.024 m) diethylcarbamoyl chloride is added dropwise. Let it stir overnight and pour into ~100 ml cold dilute hydrochloric acid. The product is extracted with ethyl acetate. Dry the organic layer and evaporate to give the desired product. Recrystallize from toluene-hexane to give white crystals, 5.8 g (81%) m.p. 87°-88° C.

reactant | 3-benzylsulfonyl-1,2,4-triazole | C(C1=CC=CC=C1)S(=O)(=O)C1=NNC=N1 | C9H9N3O2S
reactant | diethylcarbamoyl chloride | 3.3 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | hydrochloric acid | ~100 ml | Cl | ClH
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 3-Benzylsulfonyl-1-diethylcarbamoyl-1,2,4-triazole | C(C1=CC=CC=C1)S(=O)(=O)C1=NN(C=N1)C(N(CC)CC)=O | C14H18N4O3S
